US06455528B1
(4) Synthesis of N-(1-(4-Chloromethylphenyl)-1-methylethyl)acetamide
To a solution of N-(1-(4-hydroxymethylphenyl)-1-methylethyl)acetamide (18.24 g) in chloroform (180 ml) was added dropwise thionyl chloride (7.07 ml) over 10 min under ice-cooling and the mixture was stirred at room temperature for 20 hr. The reaction mixture was poured into water (1000 ml) and the organic layer was separated. The organic layer was washed with aqueous sodium hydrogencarbonate and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound (19.17 g) as pale-yellow crystals, m.p.=124-125° C.

reactant | N-(1-(4-hydroxymethylphenyl)-1-methylethyl)acetamide | 18.24 g | OCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H17NO2
reactant | thionyl chloride | 7.07 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 1000 ml | O | H2O
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-(4-Chloromethylphenyl)-1-methylethyl)acetamide | 19.17 g | ClCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H16ClNO
